US08222424B2
2-Chloro-N-dimethylaminomethylene-5-(4-hydroxy-benzoyl)-benzenesulfonamide
A solution of N,N,-dimethylformamide dimethyl acetal (1.2 g, 10.1 mmol) in acetonitrile (10 mL) is slowly added to a solution of 2-chloro-5-(4-hydroxy-benzoyl)-benzenesulfonamide (2.61 g, 8.4 mmol) in acetonitrile (10 mL). The reaction is allowed to stir for 5 hours at ambient temperature. Volatiles were removed in vacuo. The residue is partitioned between ethyl acetate and water, the organic layer is separated and the solvent is removed in vacuo, affording 2.5 g (81% yield) of the title compound which is carried on directly in the next step.

reactant | N,N,-dimethylformamide dimethyl acetal | 10.1 mmol, 1.2 g | COC(N(C)C)OC | C5H13NO2
reactant | 2-chloro-5-(4-hydroxy-benzoyl)-benzenesulfonamide | 8.4 mmol, 2.61 g | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)O)=O)S(=O)(=O)N | C13H10ClNO4S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-Chloro-N-dimethylaminomethylene-5-(4-hydroxy-benzoyl)-benzenesulfonamide | 2.5 g, 81% yield | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)O)=O)S(=O)(=O)N=CN(C)C | C16H15ClN2O4S
